* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.02000010059896515
Fd1_1 0 s1 V1 1.0000050299482577
Gr1_1_1 0 s1 x1_a1 0 -169651967873107.22
Gr2_1_1 0 s1 x2_a1 0 -1.1266649784622364e+16
Gr3_re_1_1 0 s1 x3_re_a1 0 3.0024074441608e+16
Gr3_im_1_1 0 s1 x3_im_a1 0 9.958047942863648e+16
Gr4_re_1_1 0 s1 x4_re_a1 0 7.093514705021981e+18
Gr4_im_1_1 0 s1 x4_im_a1 0 -6.771794325015578e+17
Gr5_re_1_1 0 s1 x5_re_a1 0 -7.5185711324971e+18
Gr5_im_1_1 0 s1 x5_im_a1 0 2.3547179237541645e+17
Gr6_re_1_1 0 s1 x6_re_a1 0 7.440724203759382e+17
Gr6_im_1_1 0 s1 x6_im_a1 0 2.2542141767509846e+17
Gr7_1_1 0 s1 x7_a1 0 1.1583959325459246e+18
Gr8_re_1_1 0 s1 x8_re_a1 0 -2.653066744817948e+18
Gr8_im_1_1 0 s1 x8_im_a1 0 2.7811467545658963e+17
Gr9_re_1_1 0 s1 x9_re_a1 0 -3.524210729777155e+18
Gr9_im_1_1 0 s1 x9_im_a1 0 2.0679146507244035e+17
Gr10_re_1_1 0 s1 x10_re_a1 0 -3.074983930401677e+18
Gr10_im_1_1 0 s1 x10_im_a1 0 1.3438180460975416e+17
Gr11_re_1_1 0 s1 x11_re_a1 0 1.8891295315452803e+17
Gr11_im_1_1 0 s1 x11_im_a1 0 9.399013717141389e+16
Gr12_re_1_1 0 s1 x12_re_a1 0 1.9463352501387142e+17
Gr12_im_1_1 0 s1 x12_im_a1 0 7.546262654803552e+16
Gr13_re_1_1 0 s1 x13_re_a1 0 3.487589962158755e+17
Gr13_im_1_1 0 s1 x13_im_a1 0 4.612510658469179e+16
Gr14_re_1_1 0 s1 x14_re_a1 0 4.379540973139395e+17
Gr14_im_1_1 0 s1 x14_im_a1 0 3.8075629854902e+16
Gr15_1_1 0 s1 x15_a1 0 4800180247934812.0
Gr16_re_1_1 0 s1 x16_re_a1 0 8.164665096972872e+17
Gr16_im_1_1 0 s1 x16_im_a1 0 1.7774185218421254e+16
Gr17_re_1_1 0 s1 x17_re_a1 0 1.8967494635834473e+18
Gr17_im_1_1 0 s1 x17_im_a1 0 3030828060285127.5
Gr18_re_1_1 0 s1 x18_re_a1 0 2.1661952118127025e+18
Gr18_im_1_1 0 s1 x18_im_a1 0 5645166091860532.0
Gr19_re_1_1 0 s1 x19_re_a1 0 1.0040007523563994e+18
Gr19_im_1_1 0 s1 x19_im_a1 0 1.2777041297175006e+16
Gr20_re_1_1 0 s1 x20_re_a1 0 1.2736697824317988e+18
Gr20_im_1_1 0 s1 x20_im_a1 0 1.0239663807821898e+16
Gd1_2 0 s1 p2 0 -1.8713230866558814e-08
Fd1_2 0 s1 V2 -9.356615433279408e-07
Gr1_1_2 0 s1 x1_a2 0 378404982867.6237
Gr2_1_2 0 s1 x2_a2 0 -39724365501338.016
Gr3_re_1_2 0 s1 x3_re_a2 0 53199192556363.86
Gr3_im_1_2 0 s1 x3_im_a2 0 -17252029168997.518
Gr4_re_1_2 0 s1 x4_re_a2 0 792728732182184.2
Gr4_im_1_2 0 s1 x4_im_a2 0 -364912335292238.1
Gr5_re_1_2 0 s1 x5_re_a2 0 -4408186105245372.5
Gr5_im_1_2 0 s1 x5_im_a2 0 212044423891924.06
Gr6_re_1_2 0 s1 x6_re_a2 0 2038228449720774.0
Gr6_im_1_2 0 s1 x6_im_a2 0 189201694700852.9
Gr7_1_2 0 s1 x7_a2 0 778363264890508.6
Gr8_re_1_2 0 s1 x8_re_a2 0 904344056090456.2
Gr8_im_1_2 0 s1 x8_im_a2 0 211433641487485.72
Gr9_re_1_2 0 s1 x9_re_a2 0 -12741906752628.082
Gr9_im_1_2 0 s1 x9_im_a2 0 156271014081391.53
Gr10_re_1_2 0 s1 x10_re_a2 0 -570767932033244.8
Gr10_im_1_2 0 s1 x10_im_a2 0 101862240800434.64
Gr11_re_1_2 0 s1 x11_re_a2 0 253048769893692.6
Gr11_im_1_2 0 s1 x11_im_a2 0 70439233330163.94
Gr12_re_1_2 0 s1 x12_re_a2 0 255506116372794.0
Gr12_im_1_2 0 s1 x12_im_a2 0 56909072510936.05
Gr13_re_1_2 0 s1 x13_re_a2 0 184446153233884.9
Gr13_im_1_2 0 s1 x13_im_a2 0 35039431710529.56
Gr14_re_1_2 0 s1 x14_re_a2 0 88736541157761.69
Gr14_im_1_2 0 s1 x14_im_a2 0 29012904675522.918
Gr15_1_2 0 s1 x15_a2 0 2981171156942.4395
Gr16_re_1_2 0 s1 x16_re_a2 0 85071228688470.39
Gr16_im_1_2 0 s1 x16_im_a2 0 13596651260230.104
Gr17_re_1_2 0 s1 x17_re_a2 0 -6843195665246.8
Gr17_im_1_2 0 s1 x17_im_a2 0 2331433625264.7134
Gr18_re_1_2 0 s1 x18_re_a2 0 -100792018900441.61
Gr18_im_1_2 0 s1 x18_im_a2 0 4339768302468.1367
Gr19_re_1_2 0 s1 x19_re_a2 0 56915277971267.49
Gr19_im_1_2 0 s1 x19_im_a2 0 9790021360192.557
Gr20_re_1_2 0 s1 x20_re_a2 0 16107403184392.012
Gr20_im_1_2 0 s1 x20_im_a2 0 7854861757984.844
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.08577394167107e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.009679891803999e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.5600834429601768e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 143834604514.57306
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -143834604514.57306
Rp3_im_im_a1 0 x3_im_a1 2.5600834429601768e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 6.0984563477877e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 60003049993.48424
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -60003049993.48424
Rp4_im_im_a1 0 x4_im_a1 6.0984563477877e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.368167207582307e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 48615088103.75495
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -48615088103.75495
Rp5_im_im_a1 0 x5_im_a1 1.368167207582307e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 9.367961606020444e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 47880592125.79414
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -47880592125.79414
Rp6_im_im_a1 0 x6_im_a1 9.367961606020444e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 2.899001871160746e-11
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.6840424633654595e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 38838955677.27047
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -38838955677.27047
Rp8_im_im_a1 0 x8_im_a1 1.6840424633654595e-09
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 4.6087045121257574e-09
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 32260453919.157207
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -32260453919.157207
Rp9_im_im_a1 0 x9_im_a1 4.6087045121257574e-09
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 1.507478656845156e-08
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 26714678982.856377
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -26714678982.856377
Rp10_im_im_a1 0 x10_im_a1 1.507478656845156e-08
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 3.9373757063015685e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 22838970900.017982
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -22838970900.017982
Rp11_im_im_a1 0 x11_im_a1 3.9373757063015685e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 6.213301842231539e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 21217667037.091427
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -21217667037.091427
Rp12_im_im_a1 0 x12_im_a1 6.213301842231539e-10
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 1.2125718810101943e-09
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 17849442499.114338
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -17849442499.114338
Rp13_im_im_a1 0 x13_im_a1 1.2125718810101943e-09
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 1.9573769309447162e-09
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 16710195873.637615
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -16710195873.637615
Rp14_im_im_a1 0 x14_im_a1 1.9573769309447162e-09
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 1.6629615054375423e-10
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 2.7988694004903122e-09
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 12834614971.670166
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -12834614971.670166
Rp16_im_im_a1 0 x16_im_a1 2.7988694004903122e-09
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 1.5471842316895586e-08
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 7058652257.564927
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -7058652257.564927
Rp17_im_im_a1 0 x17_im_a1 1.5471842316895586e-08
Cx18_re_a1 x18_re_a1 0 1.0
Gx18_re_a1 0 x18_re_a1 p1 0 0.1414213562373095
Fx18_re_a1 0 x18_re_a1 V1 7.0710678118654755
Rp18_re_re_a1 0 x18_re_a1 2.0702621379003875e-08
Gp18_re_im_a1 0 x18_re_a1 x18_im_a1 0 8704218062.43912
Cx18_im_a1 x18_im_a1 0 1.0
Gp18_im_re_a1 0 x18_im_a1 x18_re_a1 0 -8704218062.43912
Rp18_im_im_a1 0 x18_im_a1 2.0702621379003875e-08
Cx19_re_a1 x19_re_a1 0 1.0
Gx19_re_a1 0 x19_re_a1 p1 0 0.1414213562373095
Fx19_re_a1 0 x19_re_a1 V1 7.0710678118654755
Rp19_re_re_a1 0 x19_re_a1 3.834067389623709e-09
Gp19_re_im_a1 0 x19_re_a1 x19_im_a1 0 11469836498.309368
Cx19_im_a1 x19_im_a1 0 1.0
Gp19_im_re_a1 0 x19_im_a1 x19_re_a1 0 -11469836498.309368
Rp19_im_im_a1 0 x19_im_a1 3.834067389623709e-09
Cx20_re_a1 x20_re_a1 0 1.0
Gx20_re_a1 0 x20_re_a1 p1 0 0.1414213562373095
Fx20_re_a1 0 x20_re_a1 V1 7.0710678118654755
Rp20_re_re_a1 0 x20_re_a1 5.545415839864196e-09
Gp20_re_im_a1 0 x20_re_a1 x20_im_a1 0 10641872123.08024
Cx20_im_a1 x20_im_a1 0 1.0
Gp20_im_re_a1 0 x20_im_a1 x20_re_a1 0 -10641872123.08024
Rp20_im_im_a1 0 x20_im_a1 5.545415839864196e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -1.8713230866558814e-08
Fd2_1 0 s2 V1 -9.356615433279408e-07
Gr1_2_1 0 s2 x1_a1 0 378405267249.6562
Gr2_2_1 0 s2 x2_a1 0 -39724429946062.445
Gr3_re_2_1 0 s2 x3_re_a1 0 53199296620673.984
Gr3_im_2_1 0 s2 x3_im_a1 0 -17251933110742.191
Gr4_re_2_1 0 s2 x4_re_a1 0 792738174815524.9
Gr4_im_2_1 0 s2 x4_im_a1 0 -364913608644131.8
Gr5_re_2_1 0 s2 x5_re_a1 0 -4408200701576899.5
Gr5_im_2_1 0 s2 x5_im_a1 0 212044976164476.4
Gr6_re_2_1 0 s2 x6_re_a1 0 2038231954141657.5
Gr6_im_2_1 0 s2 x6_im_a1 0 189202205666532.7
Gr7_2_1 0 s2 x7_a1 0 778365641291368.2
Gr8_re_2_1 0 s2 x8_re_a1 0 904342068517009.2
Gr8_im_2_1 0 s2 x8_im_a1 0 211434243611768.47
Gr9_re_2_1 0 s2 x9_re_a1 0 -12746108016894.484
Gr9_im_2_1 0 s2 x9_im_a1 0 156271460580785.9
Gr10_re_2_1 0 s2 x10_re_a1 0 -570772317394920.1
Gr10_im_2_1 0 s2 x10_im_a1 0 101862531354138.77
Gr11_re_2_1 0 s2 x11_re_a1 0 253049319605040.84
Gr11_im_2_1 0 s2 x11_im_a1 0 70439435514766.98
Gr12_re_2_1 0 s2 x12_re_a1 0 255506676037066.2
Gr12_im_2_1 0 s2 x12_im_a1 0 56909235296950.51
Gr13_re_2_1 0 s2 x13_re_a1 0 184446804544550.5
Gr13_im_2_1 0 s2 x13_im_a1 0 35039531538090.13
Gr14_re_2_1 0 s2 x14_re_a1 0 88737175316410.53
Gr14_im_2_1 0 s2 x14_im_a1 0 29012987195374.707
Gr15_2_1 0 s2 x15_a1 0 2981180690342.4536
Gr16_re_2_1 0 s2 x16_re_a1 0 85072307604671.47
Gr16_im_2_1 0 s2 x16_im_a1 0 13596689849768.244
Gr17_re_2_1 0 s2 x17_re_a1 0 -6840952137495.765
Gr17_im_2_1 0 s2 x17_im_a1 0 2331440222151.4
Gr18_re_2_1 0 s2 x18_re_a1 0 -100789576218947.03
Gr18_im_2_1 0 s2 x18_im_a1 0 4339780586215.9263
Gr19_re_2_1 0 s2 x19_re_a1 0 56916543373721.445
Gr19_im_2_1 0 s2 x19_im_a1 0 9790049121025.0
Gr20_re_2_1 0 s2 x20_re_a1 0 16108936336979.63
Gr20_im_2_1 0 s2 x20_im_a1 0 7854884017436.63
Gd2_2 0 s2 p2 0 0.020000045893448677
Fd2_2 0 s2 V2 1.0000022946724338
Gr1_2_2 0 s2 x1_a2 0 -645891641901799.1
Gr2_2_2 0 s2 x2_a2 0 9.587096148139338e+16
Gr3_re_2_2 0 s2 x3_re_a2 0 -1.42763088375107e+17
Gr3_im_2_2 0 s2 x3_im_a2 0 -5.852326106708922e+16
Gr4_re_2_2 0 s2 x4_re_a2 0 -8.500808136869004e+18
Gr4_im_2_2 0 s2 x4_im_a2 0 1.4310748410254303e+18
Gr5_re_2_2 0 s2 x5_re_a2 0 1.665293361205772e+19
Gr5_im_2_2 0 s2 x5_im_a2 0 -6.800330951983141e+17
Gr6_re_2_2 0 s2 x6_re_a2 0 -5.079499880577623e+18
Gr6_im_2_2 0 s2 x6_im_a2 0 -6.214641472857137e+17
Gr7_2_2 0 s2 x7_a2 0 -2.778182031133862e+18
Gr8_re_2_2 0 s2 x8_re_a2 0 6.072244219315557e+17
Gr8_im_2_2 0 s2 x8_im_a2 0 -7.196176744527039e+17
Gr9_re_2_2 0 s2 x9_re_a2 0 3.407087728298241e+18
Gr9_im_2_2 0 s2 x9_im_a2 0 -5.330561541297032e+17
Gr10_re_2_2 0 s2 x10_re_a2 0 4.171572304519197e+18
Gr10_im_2_2 0 s2 x10_im_a2 0 -3.470678840595952e+17
Gr11_re_2_2 0 s2 x11_re_a2 0 -7.23214843244e+17
Gr11_im_2_2 0 s2 x11_im_a2 0 -2.4102208255582182e+17
Gr12_re_2_2 0 s2 x12_re_a2 0 -7.339659845915452e+17
Gr12_im_2_2 0 s2 x12_im_a2 0 -1.9427167314229152e+17
Gr13_re_2_2 0 s2 x13_re_a2 0 -7.295644440908959e+17
Gr13_im_2_2 0 s2 x13_im_a2 0 -1.192907514445706e+17
Gr14_re_2_2 0 s2 x14_re_a2 0 -6.100937988627247e+17
Gr14_im_2_2 0 s2 x14_im_a2 0 -9.866208018256656e+16
Gr15_2_2 0 s2 x15_a2 0 -1.098925960817942e+16
Gr16_re_2_2 0 s2 x16_re_a2 0 -9.652424846261033e+17
Gr16_im_2_2 0 s2 x16_im_a2 0 -4.61703612780312e+16
Gr17_re_2_2 0 s2 x17_re_a2 0 -1.8043772306010926e+18
Gr17_im_2_2 0 s2 x17_im_a2 0 -7900646885165790.0
Gr18_re_2_2 0 s2 x18_re_a2 0 -1.861543750573845e+18
Gr18_im_2_2 0 s2 x18_im_a2 0 -1.4709781069239818e+16
Gr19_re_2_2 0 s2 x19_re_a2 0 -1.0847815132878742e+18
Gr19_im_2_2 0 s2 x19_im_a2 0 -3.3224048693155388e+16
Gr20_re_2_2 0 s2 x20_re_a2 0 -1.255989872439962e+18
Gr20_im_2_2 0 s2 x20_im_a2 0 -2.6645464765423336e+16
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.08577394167107e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.009679891803999e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.5600834429601768e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 143834604514.57306
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -143834604514.57306
Rp3_im_im_a2 0 x3_im_a2 2.5600834429601768e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 6.0984563477877e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 60003049993.48424
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -60003049993.48424
Rp4_im_im_a2 0 x4_im_a2 6.0984563477877e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.368167207582307e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 48615088103.75495
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -48615088103.75495
Rp5_im_im_a2 0 x5_im_a2 1.368167207582307e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 9.367961606020444e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 47880592125.79414
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -47880592125.79414
Rp6_im_im_a2 0 x6_im_a2 9.367961606020444e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 2.899001871160746e-11
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.6840424633654595e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 38838955677.27047
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -38838955677.27047
Rp8_im_im_a2 0 x8_im_a2 1.6840424633654595e-09
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 4.6087045121257574e-09
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 32260453919.157207
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -32260453919.157207
Rp9_im_im_a2 0 x9_im_a2 4.6087045121257574e-09
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 1.507478656845156e-08
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 26714678982.856377
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -26714678982.856377
Rp10_im_im_a2 0 x10_im_a2 1.507478656845156e-08
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 3.9373757063015685e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 22838970900.017982
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -22838970900.017982
Rp11_im_im_a2 0 x11_im_a2 3.9373757063015685e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 6.213301842231539e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 21217667037.091427
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -21217667037.091427
Rp12_im_im_a2 0 x12_im_a2 6.213301842231539e-10
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 1.2125718810101943e-09
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 17849442499.114338
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -17849442499.114338
Rp13_im_im_a2 0 x13_im_a2 1.2125718810101943e-09
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 1.9573769309447162e-09
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 16710195873.637615
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -16710195873.637615
Rp14_im_im_a2 0 x14_im_a2 1.9573769309447162e-09
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 1.6629615054375423e-10
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 2.7988694004903122e-09
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 12834614971.670166
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -12834614971.670166
Rp16_im_im_a2 0 x16_im_a2 2.7988694004903122e-09
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 1.5471842316895586e-08
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 7058652257.564927
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -7058652257.564927
Rp17_im_im_a2 0 x17_im_a2 1.5471842316895586e-08
Cx18_re_a2 x18_re_a2 0 1.0
Gx18_re_a2 0 x18_re_a2 p2 0 0.1414213562373095
Fx18_re_a2 0 x18_re_a2 V2 7.0710678118654755
Rp18_re_re_a2 0 x18_re_a2 2.0702621379003875e-08
Gp18_re_im_a2 0 x18_re_a2 x18_im_a2 0 8704218062.43912
Cx18_im_a2 x18_im_a2 0 1.0
Gp18_im_re_a2 0 x18_im_a2 x18_re_a2 0 -8704218062.43912
Rp18_im_im_a2 0 x18_im_a2 2.0702621379003875e-08
Cx19_re_a2 x19_re_a2 0 1.0
Gx19_re_a2 0 x19_re_a2 p2 0 0.1414213562373095
Fx19_re_a2 0 x19_re_a2 V2 7.0710678118654755
Rp19_re_re_a2 0 x19_re_a2 3.834067389623709e-09
Gp19_re_im_a2 0 x19_re_a2 x19_im_a2 0 11469836498.309368
Cx19_im_a2 x19_im_a2 0 1.0
Gp19_im_re_a2 0 x19_im_a2 x19_re_a2 0 -11469836498.309368
Rp19_im_im_a2 0 x19_im_a2 3.834067389623709e-09
Cx20_re_a2 x20_re_a2 0 1.0
Gx20_re_a2 0 x20_re_a2 p2 0 0.1414213562373095
Fx20_re_a2 0 x20_re_a2 V2 7.0710678118654755
Rp20_re_re_a2 0 x20_re_a2 5.545415839864196e-09
Gp20_re_im_a2 0 x20_re_a2 x20_im_a2 0 10641872123.08024
Cx20_im_a2 x20_im_a2 0 1.0
Gp20_im_re_a2 0 x20_im_a2 x20_re_a2 0 -10641872123.08024
Rp20_im_im_a2 0 x20_im_a2 5.545415839864196e-09
.ENDS s_equivalent
